US07947712B2
2-[8-(Benzyloxy)-5-chloroquinolin-7-yl]-1-[3-(5-methyl-2-thienyl)phenyl]ethanol
To a stirring solution of 2-(3-bromo-phenyl)-5-methyl-thiophene (0.395 mmol) in tetrahydrofuran (4 mL) at −78° C. was slowly added a 2M solution of n-butyllithium in cyclohexane (0.435 mmol, 1.1 eq.). The resulting solution was stirred 30 min at −78° C. and solid [8-(benzyloxy)-5-chloroquinolin-7-yl]acetaldehyde (0.395 mmol) was added. Stirring at −78° C. was continued for 10 min and the reaction was allowed to warm to room temperature and was stirred 1 h. The reaction mixture was then quenched with saturated aqueous ammonium chloride solution (10 mL) and extracted with ethyl acetate (3×10 mL). The combined organic layers were dried (MgSO4), filtered and concentrated to give a yellow oil that was purified by column chromatography using 20% ethyl acetate/hexanes to give the final product as a light yellow solid (0.18 mmol, 46%). MS (ESI) m/z 486.4.

reactant | 2-(3-bromo-phenyl)-5-methyl-thiophene | 0.395 mmol | BrC=1C=C(C=CC1)C=1SC(=CC1)C | C11H9BrS
reactant | n-butyllithium | C(CCC)[Li]
reactant | cyclohexane | 0.435 mmol, 1.1 eq. | C1CCCCC1 | C6H12
reactant | [8-(benzyloxy)-5-chloroquinolin-7-yl]acetaldehyde | 0.395 mmol | C(C1=CC=CC=C1)OC=1C(=CC(=C2C=CC=NC12)Cl)CC=O | C18H14ClNO2
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
product | 2-[8-(Benzyloxy)-5-chloroquinolin-7-yl]-1-[3-(5-methyl-2-thienyl)phenyl]ethanol | 0.18 mmol, 46% | C(C1=CC=CC=C1)OC=1C(=CC(=C2C=CC=NC12)Cl)CC(O)C1=CC(=CC=C1)C=1SC(=CC1)C | C29H24ClNO2S
